US05891899
vii) 2-Amino-2-(4-carboxy-3-hydroxyphenyl)-3-(9H-xanthen-9-yl)propanoic acid
To a suspension of 2-amino-2-(4-carboxy-3-methoxyphenyl)-3-(9H-xanthen-9-yl)propanoic acid (140 mg, 0.33 mmol) in dry dichloromethane (10 ml) was added a solution of boron tribromide in dichloromethane (1.0M, 0.7 ml). The resulting suspension was stirred at room temperature for 3 days, diluted with water and stirred a further 2 h. The dichloromethane layer was separated and the aqueous phase purified by ion exchange as described in Example 1 (vi). The water-tetrahydrofuran fractions were found to contain the desired product and were combined, evaporated and freeze-dried from water to give the title compound as a white powder, m.p. 191°-194° C.

reactant | 2-amino-2-(4-carboxy-3-methoxyphenyl)-3-(9H-xanthen-9-yl)propanoic acid | 0.33 mmol, 140 mg | NC(C(=O)O)(CC1C2=CC=CC=C2OC=2C=CC=CC12)C1=CC(=C(C=C1)C(=O)O)OC | C24H21NO6
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0M, 0.7 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-Amino-2-(4-carboxy-3-hydroxyphenyl)-3-(9H-xanthen-9-yl)propanoic acid | NC(C(=O)O)(CC1C2=CC=CC=C2OC=2C=CC=CC12)C1=CC(=C(C=C1)C(=O)O)O | C23H19NO6
